US07829556B2
2-(3-Pyridyl)-4-methylthiazole-5-carboxylic acid (0.61 g, 2.8 mmol) was dissolved in thionyl chloride (2 mL) and the mixture was stirred with heating (82° C., 3 hours). Upon cooling, the solvent was removed and the residue was dried under high vac. The acid chloride was then suspended in 5 mL of pyridine and added to a microwave vial charged with 2-(3-morpholinomethyl)imidazo[2,1-b]thiazol-6-yl)aniline (0.87 g, 2.8 mmol). The reaction was subjected to microwave irradiation (160° C., 15 min). The solution was triturated with methanol, and the resulting solid was filtered and washed with additional methanol. The solid was dried to afford 0.97 g (68%) of 4-methyl-N-(2-(3-morpholinomethyl)imidazo[2,1-b]thiazol-6-yl)phenyl)-2-(pyridin-3-yl)thiazole-5-carboxamide.

reactant | 2-(3-Pyridyl)-4-methylthiazole-5-carboxylic acid | 2.8 mmol, 0.61 g | N1=CC(=CC=C1)C=1SC(=C(N1)C)C(=O)O | C10H8N2O2S
reactant | aniline | 2.8 mmol, 0.87 g | NC1=CC=CC=C1 | C6H7N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(pyridin-3-yl)thiazole-5-carboxamide | N1=CC(=CC=C1)C=1SC(=CN1)C(=O)N | C9H7N3OS
